### PR TITLE
feat(QuantumMechanics): Uncertainty bounds for partial linear maps

### PR DESCRIPTION
**Pull request by or4nge19**
This file proves abstract uncertainty bounds for symmetric partial linear maps on complex inner product spaces. The statements are independent of any concrete position or momentum operator.

The state-level results use only the domain assumptions needed to form the centered vectors. The raw-commutator results add the second-order domain hypotheses required to apply `A` to `Bψ` and `B` to `Aψ`.

PR 2 of 3 - from development at Axiomatic-AI
Depends on #1090 and #1094

### CODE REVIEW

**Comment by jstoobysmith** [comment]
blocked-by-PR

**Comment by matteo-ax** [comment]
- blocked-by-PR

File: Physlib/QuantumMechanics/DDimensions/Operators/StateObservables.lean [hunk 1]
```diff
@@ -0,0 +1,409 @@
...
+## Main definitions
+
+- `LinearPMap.expectedValue`: the real part of the quadratic form
+  `⟪ψ, Tψ⟫_ℂ`.
+- `LinearPMap.stateExpectedValue`: the same quantity, with state-observable naming.
+- `LinearPMap.centered`: the centered vector `Tψ - ⟨T⟩ψ`.
+- `LinearPMap.stateVariance` and `LinearPMap.stateStdDev`: state variance and standard deviation.
+- `LinearPMap.squaredExpectedValue`, `LinearPMap.variance`, and `LinearPMap.stdDev`: the
+  second-order versions available when `Tψ ∈ T.domain`.
+- `LinearPMap.IsEigenvector`: the eigenvector predicate for a partial linear map.
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/StateObservables.lean]: I think I would split this into multiple files based on the above definitions. 
Is `LinearPMap.squaredExpectedValue` actually needed, or could it be got from `LinearPMap.stateExpectedValue`?

File: Physlib/QuantumMechanics/DDimensions/Operators/StateObservables.lean [hunk 2]
```diff
@@ -0,0 +1,409 @@
...
+lemma stateVariance_eq_zero_iff_centered_eq_zero (T : H →ₗ.[ℂ] H)
+    (ψ : H) (hψ : ψ ∈ T.domain) :
+    stateVariance T ψ hψ = 0 ↔ centered T ψ hψ = 0 := by
+  rw [stateVariance_eq_centered_norm_sq]
+  exact sq_eq_zero_iff.trans norm_eq_zero
+
+/-- Zero variance is the same as `Tψ = ⟨T⟩_ψ ψ`. -/
+lemma stateVariance_eq_zero_iff (T : H →ₗ.[ℂ] H) (ψ : H) (hψ : ψ ∈ T.domain) :
+    stateVariance T ψ hψ = 0 ↔
+      (T ⟨ψ, hψ⟩ : H) = (stateExpectedValue T ψ hψ : ℂ) • ψ := by
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/StateObservables.lean]: This sort of casting ` (T ⟨ψ, hψ⟩ : H)` is a it annoying here, is it actually necessary?

File: Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean [hunk 3]
```diff
@@ -0,0 +1,322 @@
...
+
+variable {H : Type*} [NormedAddCommGroup H] [InnerProductSpace ℂ H]
+
+section Covariance
+
+variable (A B : H →ₗ.[ℂ] H)
+variable (ψ : H) (hψA : ψ ∈ A.domain) (hψB : ψ ∈ B.domain)
+
+/-- State covariance, defined as the real part of the centered inner product. -/
+def stateCovariance : ℝ :=
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean]: Should be own module

File: Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean [hunk 4]
```diff
@@ -0,0 +1,322 @@
...
+  rw [← Complex.normSq_eq_norm_sq, Complex.normSq_apply, inner_im_of_commutator_eq h_comm]
+  ring
+
+private lemma sub_expectation_commutator_eq_raw
+    (ψ a b : H) (μa μb : ℝ)
+    (hμa_right : ⟪ψ, a⟫_ℂ = (μa : ℂ))
+    (hμa_left : ⟪a, ψ⟫_ℂ = (μa : ℂ))
+    (hμb_right : ⟪ψ, b⟫_ℂ = (μb : ℂ))
+    (hμb_left : ⟪b, ψ⟫_ℂ = (μb : ℂ))
+    (hψ_norm : ‖ψ‖ = 1) :
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean]: Don't all need to be on new lines

File: Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean [hunk 5]
```diff
@@ -0,0 +1,322 @@
...
+          rfl
+    _ = ⟪a, b⟫_ℂ - ⟪b, a⟫_ℂ :=
+      sub_expectation_commutator_eq_raw ψ a b μa μb
+        hμa_right hμa_left hμb_right hμb_left hψ_norm
+    _ = Complex.I * c :=
+      raw_commutator_eq_of_symmetric A B hA hB ψ hψA hψB hBA hAB rfl rfl h_raw
+
+/-- A raw commutator expectation implies the squared Robertson uncertainty bound. -/
+lemma state_uncertainty_squared_of_raw_commutator :
+    stateVariance A ψ hψA * stateVariance B ψ hψB ≥ (|c| / 2) ^ 2 :=
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean]: Lean convention would be to have these as \leq rather than \geq

File: Physlib/QuantumMechanics/DDimensions/Operators/StateObservables.lean (hunk 1 above)
Comment (or4nge19) [reply Physlib/QuantumMechanics/DDimensions/Operators/StateObservables.lean]: LinearPMap.squaredExpectedValue can be made redundant. Have also split files

File: Physlib/QuantumMechanics/DDimensions/Operators/StateObservables.lean (hunk 2 above)
Comment (or4nge19) [reply Physlib/QuantumMechanics/DDimensions/Operators/StateObservables.lean]: done

**Comment by or4nge19** [comment]
t-quantum-mechanics

File: Physlib/QuantumMechanics/DDimensions/Operators/StateCovariance.lean [hunk 6]
```diff
@@ -0,0 +1,84 @@
...
+variable {H : Type*} [NormedAddCommGroup H] [InnerProductSpace ℂ H]
+
+section Covariance
+
+variable (A B : H →ₗ.[ℂ] H)
+variable (ψ : A.domain)
+variable (hψB : (ψ : H) ∈ B.domain)
+
+/-- State covariance, defined as the real part of the centered inner product. -/
+def stateCovariance : ℝ :=
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/StateCovariance.lean]: maybe `covariance` is better here (likewise with the file name).

File: QuantumInfo/Finite/AxiomatizedEntropy/Renyi.lean [hunk 7]
```diff
@@ -5,7 +5,7 @@ Authors: Alex Meiburg
 -/
 module
 
-public import QuantumInfo.Finite.Entropy.Defs
+public import QuantumInfo.Finite.AxiomatizedEntropy.Defs
```
Comment (jstoobysmith) [inline QuantumInfo/Finite/AxiomatizedEntropy/Renyi.lean:8]: Why is this needed?

File: Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean [hunk 8]
```diff
@@ -0,0 +1,290 @@
...
+  exact commutator_half_sq_le_mul_norm_sq h_centered
+
+/-- A centered commutator identity implies the Robertson–Schrödinger uncertainty bound. -/
+lemma state_uncertainty_squared_with_covariance_of_centered_commutator :
+    (stateCovariance A B ψ hψB) ^ 2 + (c / 2) ^ 2 ≤
+      variance A ψ * variance B ⟨ψ, hψB⟩ := by
+  rw [variance_eq_centered_norm_sq, variance_eq_centered_norm_sq]
+  have h_mul_sq :
+      ‖centered A ψ‖ ^ 2 * ‖centered B ⟨ψ, hψB⟩‖ ^ 2 =
+        (‖centered A ψ‖ * ‖centered B ⟨ψ, hψB⟩‖) ^ 2 := by
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean]: Probably could be collapsed to one or two lines.

File: Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean [hunk 9]
```diff
@@ -0,0 +1,290 @@
...
+
+include h_centered
+
+/-- A centered commutator identity implies the squared Robertson uncertainty bound. -/
+lemma state_uncertainty_squared_of_centered_commutator :
+    (|c| / 2) ^ 2 ≤ variance A ψ * variance B ⟨ψ, hψB⟩ := by
+  rw [variance_eq_centered_norm_sq, variance_eq_centered_norm_sq]
+  have h_mul_sq :
+      ‖centered A ψ‖ ^ 2 * ‖centered B ⟨ψ, hψB⟩‖ ^ 2 =
+        (‖centered A ψ‖ * ‖centered B ⟨ψ, hψB⟩‖) ^ 2 := by
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean]: Probably could be collapsed to two lines

File: Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean [hunk 10]
```diff
@@ -0,0 +1,290 @@
...
+
+variable (A B : H →ₗ.[ℂ] H) (hA : A.IsSymmetric) (hB : B.IsSymmetric)
+variable (ψ : A.domain)
+variable (hψB : (ψ : H) ∈ B.domain)
+variable (hψ_norm : ‖(ψ : H)‖ = 1)
+variable (hBA : A ψ ∈ B.domain)
+variable (hAB : B ⟨ψ, hψB⟩ ∈ A.domain)
+variable {c : ℝ}
+variable (h_raw :
+  ⟪(ψ : H), A ⟨B ⟨ψ, hψB⟩, hAB⟩ - B ⟨A ψ, hBA⟩⟫_ℂ = Complex.I * c)
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean]: Could this not be written in terms of a commutator directly?

File: Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean [hunk 11]
```diff
@@ -0,0 +1,290 @@
...
+-/
+
+section CenteredBounds
+
+variable (A B : H →ₗ.[ℂ] H)
+variable (ψ : A.domain)
+variable (hψB : (ψ : H) ∈ B.domain)
+variable {c : ℝ}
+variable (h_centered :
+  ⟪centered A ψ, centered B ⟨ψ, hψB⟩⟫_ℂ -
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Uncertainty.lean]: Any way to relate this to a predefined quantity and add the below results to the API of that?

**Review by jstoobysmith — APPROVED** [review]
Approved - sorry for being slow here. Will merge shortly.
